US07691882B2
3-(3-(4-(6-Chloro-pyrazin-2-yloxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a methanol (1.5 mL) solution of 4-(5-(2,6-diamino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol (50 mg, 0.18 mmol) described in Manufacturing Example 18-1-1 was added a 2 N sodium hydroxide solution (89 μL), which was concentrated under a reduced pressure. 2,6-Dichloropyrazine (28 mg, 0.19 mmol) and N,N-dimethylformamide (0.75 mL) were added to the residue, which was stirred for 10 minutes at 100° C. The reaction solution was partitioned into ethyl acetate and water. The organic layer was separated and concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1, then ethyl acetate) to obtain the title compound (47 mg, 67%).

reactant | methanol | 1.5 mL | CO | CH4O
reactant | 4-(5-(2,6-diamino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol | 0.18 mmol, 50 mg | NC1=NC(=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O)N | C15H14N4O2
reactant | sodium hydroxide | 2 N, 89 μL | [OH-].[Na+]
reactant | 2,6-Dichloropyrazine | 0.19 mmol, 28 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
solvent | N,N-dimethylformamide | 0.75 mL | CN(C=O)C | C3H7NO
product | 3-(3-(4-(6-Chloro-pyrazin-2-yloxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 47 mg, 67% | ClC1=CN=CC(=N1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C19H15ClN6O2
